Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-5.78313235026
[H:1][O:2][C:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[C:9]([H:10])[H:11]>>[H:1][O:2][C:3][C:4]([H:5])[C:6]#[C:7][C:9]([H:10])[H:11].[H:8],2.60261222022
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:13].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11][H:12],5.1193338627
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:6]>>[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.45468601383
[H:1][O:2][C:3]#[C:4][C:5]([C:6]([H:7])[H:8])=[C:9]([H:10])[H:11]>>[C:5](=[C:6]([H:7])[H:8])=[C:9]([H:10])[H:11].[H:1][O:2][C:3]#[C:4],3.536956188
[O:1]=[C:2]1[C:3]([O:4][H:5])=[C:6]([H:7])[C:8]1([H:9])[H:10]>>[O:1]=[C:2]([C:3]([O:4][H:5])=[C:6][H:7])[C:8]([H:9])[H:10],3.25111557697
[H:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]#[C:4],6.67044859945
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[O:8])[C:9]([H:10])([H:11])[H:12]>>[H:6].[O:1]=[C:2]([H:3])[C:4]([H:5])[C:7](=[O:8])[C:9]([H:10])([H:11])[H:12],3.93805956898
[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-3.78735891181
[H:1][O:2][C@:3]1([C:4]([H:5])([H:6])[H:7])[O:8][C@:9]1([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C@@:3]([C:4]([H:5])([H:6])[H:7])([O:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-0.049182923960000006
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2](=[O:3])[C:12]([H:13])([H:14])[H:15],0.46054172248
[H:1][C:2].[O:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-6.177127199199999
[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.69450389556
[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][C:2]([H:3])[C:4]([H:5])=[O:6]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-2.8198329169800003
[C:1]#[C:2][C:3]([H:4])=[C:9]([H:7])[H:10].[C:5]([H:6])#[C:8]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-4.51691698316
[O:1][O:2][C:3]1=[C:4]([H:5])[C@@:6]1([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1][O:2][C:3]([C:4][H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],1.4507158644999998
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][C:4]([H:5])([H:6])[O:7][C:8][O:9][C:10]([H:11])([H:12])[H:13].[H:3],5.19656601241
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11]/[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])#[C:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])[H:8],1.47759706266
[H:1][C:2]#[C:3][O:5][C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:4]>>[H:1][C:2]=[C:3]([H:4])[O:5][C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-2.00210827772
[C:1][O:2][C:3]#[C:4][O:5][C:6][H:7]>>[C:1].[O:2]=[C:3]=[C:4][O:5][C:6][H:7],3.18578555999
[C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-6.05206006997
[H:1][O:2][C:3][O:4][C:5][C:7]([H:8])([H:9])[H:10].[H:6]>>[H:1][O:2][C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10],-4.38684085809
[H:10].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:9]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-5.98432708413
[H:1][C:2]1[C:3][C@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[O:11]1>>[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[O:11],-0.279466901779
[C:2]([H:3])([H:4])=[O:10].[O:1]([C:5]([H:6])[C:7]#[C:8][H:9])[H:11]>>[O:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([C:7]#[C:8][H:9])[O:10][H:11],-0.121788285911
[H:6].[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-3.78613134749
[H:7].[O:1]=[C:2]=[C:3]([C:4]([H:5])[H:6])[C:8]([H:9])([H:10])[O:11][H:12]>>[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-4.03744312801
[C:4][O:5][H:6].[H:1][C:2]#[C:3][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]=[C:3]([C:4][O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-0.8295959309000001
[H:1][C:2]([H:3])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:4]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.29993043165
